US03956500
PREPARATION OF 4-(DIMETHYLCARBAMOYLOXIMINO)-1,3-OXATHIOLANE
A quantity of 6 grams of 4-oximino-1,3-oxathiolane dissolved in 100 ml of anhydrous ether was added over 30 minutes to a solution of 10 grams of phosgene in 100 ml of anhydrous ether maintained at -10°C. A quantity of 6 grams of N,N-dimethylaniline dissolved in 200 ml of anhydrous ether was then added dropwise to the cooled phosgene/oxime solution over a 30 minute period. The heterogeneous mixture was stirred at -10° for 2 hours, filtered in an inert atmosphere and the filtrate concentrated under a vacuum to about 250 ml. The concentrated solution was cooled to 10° in a stirring vessel, 12 ml of 40 percent aqueous dimethylamine was added dropwise, and the mixture stirred for 1 hour at 10°. A volume of 100 ml of water was added, the phases separated, and the organic phase washed with two 50 ml portions of saturated brine. The three aqueous solutions were extracted sequentially with a volume of 300 ml of ether. The combined ether solutions were dried over magnesium sulfate, filtered, and evaporated. Recrystallization of the crude 4-(dimethylcarbamoyloximino)-1,3-oxathiolane afforded pure product, mp 87.5°-88.0°.

reactant | 4-oximino-1,3-oxathiolane | 6 grams | N(O)=C1SCOC1 | C3H5NO2S
reactant | phosgene | 10 grams | C(=O)(Cl)Cl | CCl2O
reactant | N,N-dimethylaniline | 6 grams | CN(C1=CC=CC=C1)C | C8H11N
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 4-(DIMETHYLCARBAMOYLOXIMINO)-1,3-OXATHIOLANE | CN(C(=O)ON=C1SCOC1)C | C6H10N2O3S
